US07319097B2
The compound was prepared from 2-amino-5-(4-t-butyloxycarbonyl-1-homopiperazinyl)aniline and 3-flourobenzenesulfonyl chloride. Purification by column chromatography (CH2Cl2/MeOH/heptane, 4:1:15) gave a mixture of N-{2-amino-4-[4-t-butyloxycarbonyl-homopiperazin-1-yl-]phenyl}3-fluorobenzenesulfonamide and N-{4-[4-t-butyloxycarbonyl]homopiperazinyl)-2-[(3-flourophenylsulfonyl)amino]phenyl}-3-fluorobenzenesulfonamide (0.180 g, 73%). Boc-deprotection was achieved by dissolving the mixture in small amount of MeOH and adding HCl/ether. The mixture was let at r.t. for 0.5 h. Purification by preparative HPLC gave N-(4-(1,4-diazepan-1-yl)-2-{[(3-fluorophenyl)sulfonyl}phenyl)-3-fluorobenzenesulfonamide hydrochloride Anal. (C23H27ClN4O4S2) C, H, N, S.; M+524.4 Calcd 522.12.

reactant | 2-amino-5-(4-t-butyloxycarbonyl-1-homopiperazinyl)aniline | NC1=C(N)C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H26N4O2
reactant | 3-flourobenzenesulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | N-{2-amino-4-[4-t-butyloxycarbonyl-homopiperazin-1-yl-]phenyl}3-fluorobenzenesulfonamide | NC1=C(C=CC(=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC(=CC=C1)F | C22H29FN4O4S
reactant | 3-fluorobenzenesulfonamide | 0.180 g | FC=1C=C(C=CC1)S(=O)(=O)N | C6H6FNO2S
reactant | HCl ether | Cl.CCOCC
solvent | MeOH | CO | CH4O
product | 4-(1,4-diazepan-1-yl)-2-{[(3-fluorophenyl)sulfonyl}phenyl)-3-fluorobenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=C(C(=C(C=C1)S(=O)(=O)N)C1=C(C=CC=C1)S(=O)(=O)C1=CC(=CC=C1)F)F | InChI=1S/C23H23F2N3O4S2.ClH/c24-16-5-3-6-17(15-16)33(29,30)20-8-2-1-7-18(20)22-21(34(26,31)32)10-9-19(23(22)25)28-13-4-11-27-12-14-28;/h1-3,5-10,15,27H,4,11-14H2,(H2,26,31,32);1H
